US04695649
A similar procedure to Example 5 is carried out by using ethyl p-hydroxybenzoate and isophthalic dichloride. The reaction product is recrystallized from chloroform-ethyl acetate (1:1) to yield di(p-ethoxycarbonylphenyl)isophthalate, m.p. 123°-125° C., as white crystals.

reactant | ethyl p-hydroxybenzoate | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | isophthalic dichloride | C(C1=CC(C(=O)Cl)=CC=C1)(=O)Cl | C8H4Cl2O2
product | di(p-ethoxycarbonylphenyl)isophthalate | C(C)OC(=O)C1=CC=C(C=C1)OC(C1=CC(C(=O)OC2=CC=C(C=C2)C(=O)OCC)=CC=C1)=O | C26H22O8
